US06307047B1
To a rapidly stirred 0° C. mixture of N-methylbenzylamine (67.5 mg, 0.56 mmol) and tetrahydrofuiran (3.7 mL) was slowly added dropwise an n-BuLi solution (0.235 mL, 0.59 mmol, 2.5 M in hexanes). The reaction mixture was stirred for 10 minutes at 0° C. and 1 hour at 23° C. The solution was cooled to −78° C., and a tetrahydrofuran (10-15 mL) solution of the 2-(3-chlorophenyl)-4-methoxy-5-[4-(methylthio)phenyl]-3(2H)-pyridazinone (200 mg, 0.56 mmol) slowly added along the interior wall of the reaction vessel. This reaction mixture was stirred overnight, slowly warming to 23° C. as the cooling bath evaporated. The reaction was quenched with water and diluted with a large excess of ethyl acetate. The layers were separated, and the ethyl acetate layer washed with additional water and brine and dried over MgSO4, filtered, and concentrated in vacuo. The residue was chromatographed (flash silica gel, ethyl acetate/hexanes 1:9) to provide 2-(3-chlorophenyl)-4-(N-methyl benzylamino)-5-[4-(methylthio)phenyl]-3(2H)-pyridazinone (yield: 145 mg, 58%).

reactant | N-methylbenzylamine | 0.56 mmol, 67.5 mg | CNCC1=CC=CC=C1 | C8H11N
reactant | n-BuLi | 0.59 mmol, 2.5 M, 0.235 mL | [Li]CCCC
reactant | 2-(3-chlorophenyl)-4-methoxy-5-[4-(methylthio)phenyl]-3(2H)-pyridazinone | 0.56 mmol, 200 mg | ClC=1C=C(C=CC1)N1N=CC(=C(C1=O)OC)C1=CC=C(C=C1)SC | C18H15ClN2O2S
solvent | tetrahydrofuran | 10-15 mL | O1CCCC1 | C4H8O
product | 2-(3-chlorophenyl)-4-(N-methyl benzylamino)-5-[4-(methylthio)phenyl]-3(2H)-pyridazinone | yield: 145 mg, 58% | ClC=1C=C(C=CC1)N1N=CC(=C(C1=O)N(C)CC1=CC=CC=C1)C1=CC=C(C=C1)SC | C25H22ClN3OS
